US05116404
1-ethoxymethyl-3-(2,4,6-trichlorophenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione (compound No. 5.20 of the present invention)
1.50 g of 3-(2,4,6-trichlorophenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione was added to a 10 ml tetrahydrofuran solution of 0.30 g of sodium hydride (purity: 55%) with stirring under ice cooling, and the mixed solution was stirred at room temperature for 15 minutes. Then, after adding 0.70 g of chloromethylethyl ether, the solution was further stirred at room temperature for 3 hours. Then ice was added to the solution to decompose excess sodium hydride. The resulting mixture was extracted with 100 ml of ethyl acetate, and the obtained organic layer was washed thrice with water and dried over magnesium sulfate. Then the solvent was distilled away under reduced pressure to obtain 1.2 g of the objective compound as a viscous oily substance.

reactant | 3-(2,4,6-trichlorophenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 1.50 g | ClC1=C(C(=CC(=C1)Cl)Cl)N1C(NC(=CC1=O)C(F)(F)F)=O | C11H4Cl3F3N2O2
reactant | sodium hydride | 0.30 g | [H-].[Na+]
reactant | chloromethylethyl ether | 0.70 g | ClCOCC | C3H7ClO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-ethoxymethyl-3-(2,4,6-trichlorophenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 1.2 g | C(C)OCN1C(N(C(C=C1C(F)(F)F)=O)C1=C(C=C(C=C1Cl)Cl)Cl)=O | C14H10Cl3F3N2O3
